US07291619B2
6-Hydroxy-1,1-dimethyl-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid {1-(4-chloro-benzyl)-2-oxo-2-[4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazin-1-yl]-ethyl}-amide
1-Boc-4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazine was deprotected and coupled to Boc-D-p-Cl-Phe-OH in a manner similar to coupling procedure 1. The coupled product was deprotected and prepared as the chloride salt. To a solution of the chloride salt (1.16 g, 2.52 mmol), 6-hydroxy-1,1-dimethyl-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid (714 mg), DIEA (1.75 mL), HOBt (408 mg), and DMAP (62 mg) in 2.52 mL of CH2Cl2 was added EDC (579 mg). After stirring overnight, the mixture was extracted with EtOAc, washed with water, saturated bicarbonate and brine, and then dried over Na2SO4, filtered and evaporated to dryness. The mixture was chromatographed with 5% MeOH/EtOAc. The diastereomers were separated on a waters symmetry C18 column 80:20 to 50:50 water (0.05% TFA) acetonitrile over 40 minutes detecting at 230 nm. LRMS (ESI+): 628.3 (M+1).

reactant | 1-Boc-4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN1N=CN=C1 | C18H25N5O2
reactant | 6-hydroxy-1,1-dimethyl-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid | 714 mg | OC=1C=C2CC(NC(C2=CC1)(C)C)C(=O)O | C12H15NO3
reactant | DIEA | 1.75 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 408 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | CH2Cl2 | 2.52 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 62 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EDC | 579 mg
product | 6-Hydroxy-1,1-dimethyl-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid {1-(4-chloro-benzyl)-2-oxo-2-[4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazin-1-yl]-ethyl}-amide | ClC1=CC=C(CC(C(N2CCN(CC2)C2=C(C=CC=C2)CN2N=CN=C2)=O)NC(=O)C2NC(C3=CC=C(C=C3C2)O)(C)C)C=C1 | C34H38ClN7O3
